US08283354B2
To a solution of N-((R)-1-(6-fluoro-2-(2-hydroxyphenyl)quinazolin-4-yl)pyrrolidin-3-yl)cyclopropanecarboxamide (225 mg, 0.57 mmol) in 5 mL CH2Cl2 was added a 2 M HCl solution in ether (0.28 mL, 0.57 mmol), which resulted in the precipitation of a solid. After the addition of 20 mL ether, the reaction mixture was stirred for 1 h. The solvents were evaporated under reduced pressure to afford N-((R)-1-(6-fluoro-2-(2-hydroxyphenyl)quinazolin-4-yl)pyrrolidin-3-yl)cyclopropanecarboxamide hydrochloride (225 mg, 91%). LC/MS: m/z 393.3 (M+H)+ at 2.43 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)). 1H NMR (400 MHz, DMSO-d6) δ 8.23 (d, J=8.3 Hz, 1H), 8.04 (d, J=10.6 Hz, 1H), 7.91-7.94 (m, 1H), 7.79-7.83 (m, 1H), 7.44-7.48 (m, 1H), 7.00-7.03 (m, 2H), 4.44 (t, J=4.9 Hz, 1H), 4.09-4.23 (m, 3H), 3.87-3.90 (m, 1H), 2.25-2.34 (m, 1H), 2.02-2.09 (m, 1H), 1.49-1.55 (m, 1H), 0.68-0.71 (m, 4H).

reactant | N-((R)-1-(6-fluoro-2-(2-hydroxyphenyl)quinazolin-4-yl)pyrrolidin-3-yl)cyclopropanecarboxamide | 0.57 mmol, 225 mg | FC=1C=C2C(=NC(=NC2=CC1)C1=C(C=CC=C1)O)N1C[C@@H](CC1)NC(=O)C1CC1 | C22H21FN4O2
reactant | HCl | 2 M | Cl | ClH
reactant | ether | 0.57 mmol, 0.28 mL | CCOCC | C4H10O
reactant | ether | 20 mL | CCOCC | C4H10O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | N-((R)-1-(6-fluoro-2-(2-hydroxyphenyl)quinazolin-4-yl)pyrrolidin-3-yl)cyclopropanecarboxamide hydrochloride | 225 mg, 91% | Cl.FC=1C=C2C(=NC(=NC2=CC1)C1=C(C=CC=C1)O)N1C[C@@H](CC1)NC(=O)C1CC1 | InChI=1S/C22H21FN4O2.ClH/c23-14-7-8-18-17(11-14)21(26-20(25-18)16-3-1-2-4-19(16)28)27-10-9-15(12-27)24-22(29)13-5-6-13;/h1-4,7-8,11,13,15,28H,5-6,9-10,12H2,(H,24,29);1H/t15-;/m1./s1
